US06060508
2.77 g (7.68 mmol) of 2,3-dimethyl-7-(1-diethylamino-2-[tert-butyldimethylsilyloxy]ethyl)benzofuran and 30 ml of tetrahydrofuran are introduced into a 250 ml round-bottomed flask. The reaction mixture is cooled to 0° C. by an ice bath and a solution of 2.9 g (9.21 mmol) of tert-butylammonium fluoride trihydrate in 10 ml of tetrahydrofuran is added. The reaction mixture is stirred at 0° C. for 1 hour and at room temperature for 16 hours. 150 ml of water are added and extraction is carried out with ethyl ether (3×200 ml). The organic phases are combined, dried over magnesium sulphate and concentrated under vacuum. The residue is purified by chromatography on a silica column (elution solvent: 5% methanol in dichloromethane). 1.6 g (Yield: 80%) of 2,3-dimethyl-7-(1-diethylamino-2-hydroxyethyl)benzofuran are obtained in the form of an oil.

reactant | 2,3-dimethyl-7-(1-diethylamino-2-[tert-butyldimethylsilyloxy]ethyl)benzofuran | 7.68 mmol, 2.77 g | CC=1OC2=C(C1C)C=CC=C2C(CO[Si](C)(C)C(C)(C)C)N(CC)CC | C22H37NO2Si
reactant | tert-butylammonium fluoride trihydrate | 9.21 mmol, 2.9 g | O.O.O.[F-].C(C)(C)(C)[NH3+]
reactant | water | 150 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2,3-dimethyl-7-(1-diethylamino-2-hydroxyethyl)benzofuran | 1.6 g, Yield: 80% | CC=1OC2=C(C1C)C=CC=C2C(CO)N(CC)CC | C16H23NO2
